US09029531B2
Step A: 2-(2-fluoro-5-methoxyphenyl)acetic acid
The solution of 2-(2-fluoro-5-methoxyphenyl)acetonitrile (200 mg, 1.0 mmol) and sodium hydroxide (81.5 mg, 2.0 mmol) in water was stirred at 100 degree for 8 h. The reaction mixture was evaporated under reduced pressure to get the crude product for the next step without further purification. LC-MS: m/z (M−H)=183.2

reactant | 2-(2-fluoro-5-methoxyphenyl)acetonitrile | 1.0 mmol, 200 mg | FC1=C(C=C(C=C1)OC)CC#N | C9H8FNO
reactant | sodium hydroxide | 2.0 mmol, 81.5 mg | [OH-].[Na+]
reactant | water | O | H2O
product | 2-(2-fluoro-5-methoxyphenyl)acetic acid | FC1=C(C=C(C=C1)OC)CC(=O)O | C9H9FO3
